Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: NEUROLOGY
 
Allergies: 
Bactrim
 
Attending: ___
 
Chief Complaint:
dizziness
 
Major Surgical or Invasive Procedure:
PICC insertion ___
Lumbar puncture ___
 
History of Present Illness:
Mrs. ___ is a ___ right handed woman with a past
medical history of multiple sclerosis on copaxone and OSA who
presents with a 10 day history of dizziness, with MRI findings 
of
multiple cranial nerve enhancement with concern for Ramsay Hunt
Syndrome.

History is gathered from the patient.

Essentially, she was in her baseline state of health until 10
days ago when she was out at a concert with her husband.  There
she had sudden onset of "dizziness".  She describes this as a
sensation of unsteadiness (no presyncope, no vertigo at that
time).  Since its onset, this sensation has essentially 
continued
unabated.  The sensation of unsteadiness would improve (though
not completely resolve when laying flat or sitting).  This
unsteadiness worsened gradually over several days.  It was
associated with a soft "clicking" sound in her left ear.  

She was seen by her PCP and prescribed antibiotics for possible
sinusitis.

This changed roughly 4 days ago, when shortly after getting up,
she had onset of vertigo (spinning sensation), lasting several
hours and then spontaneously resolving.  It has not recurred
since.  She also developed intermittent sharp left ear pain. It
is brief and "electric" in nature.  It occurs ___ without
clear inciting event.

For the past several days she has been generally fatiuged and
"sleeping a lot".  Though she has remained at home she feels 
very
unsteady and is worried she may fall.  When walking, she feels
like she veers to the right.  

Additionally, for the past day she endorses she feels like her
eyes are not "focus right".  She denies double or blurry vision
and cannot really clarify.  However, she states she has been
keeping one eye closed (either) to help improve her symptoms.

For these symptoms, she was evaluated by her Neurologist, Dr.
___ at ___ on ___ and subsequently referred for an MRI.

She underwent MRI Brain w/ and w/o contrast yesterday which
revealed "enhancement of the left geniculate ganglion and the
intracanalicular portions left facial nerves suggesting a viral
illness".  Following these results, she was referred to our ED. 

Of note, she has had nothing like this prior.  She endorses
recent sick contacts with URI symptoms.

Review of Systems:

On neuro ROS, the pt denies headache, loss of vision, blurred
vision, diplopia, dysarthria, dysphagia, lightheadedness,or
hearing difficulty. Denies difficulties producing or
comprehending speech.  Denies focal weakness, numbness,
parasthesiae. No bowel or bladder incontinence or retention.
Denies difficulty with gait.

On general review of systems, the pt denies recent fever or
chills.  Denies cough, shortness of breath.  Denies chest pain 
or
tightness, palpitations.  Denies nausea, vomiting, diarrhea,
constipation or abdominal pain.  No recent change in bowel or
bladder habits.  

 
Past Medical History:
-Multiple Sclerosis - long standing left foot drop.
-Colonic adenoma 
-OSTEOPENIA 
-B/l CARPAL TUNNEL SYNDROME 
-Gastrointestinal food sensitivity 
-Simple ovarian cyst 
-OSA (obstructive sleep apnea) 
-Basal cell carcinoma of face and right ala nasi 
 
Social History:
___
Family History:
- Denies neurologic disease in the family.  Mother with aortic
aneurysm.
 
Physical Exam:
ADMISION PHYSICAL EXAM:
Vitals:  99.5 68 109/63 16 100%  
General: Awake, cooperative, NAD.
HEENT: NC/AT.  Left Ear canal mildly tender but without gross
vesicles in the canal.  Well visualized vesicle on the left
tympanic membrane distorting typical anatomy.
Neck: Supple. 
Pulmonary: clear to auscultation bilaterally
Cardiac: RRR, no murmurs
Abdomen: soft, nondistended
Extremities: no edema, warm
Skin: no rashes or lesions noted.
 
NEUROLOGIC EXAMINATION
-Mental Status: Alert, oriented.  Able to relate history without
difficulty.  Language is fluent with intact repetition and
comprehension.  Normal prosody.  There were no paraphasic 
errors.
Pt. was able to name both high and low frequency objects (though
called pointer finger "forefinger".  Speech was not dysarthric. 
Able to follow both midline and appendicular commands. 
Attentive, able to name ___ backward without difficulty.  Able 
to
register 3 objects and recall ___ at 5 minutes.  There was no
apraxia or neglect.

-Cranial Nerves:
I: Olfaction not tested.
II: PERRL 4 to 2mm bilaterally.  VFF to confrontation with 
finger
wiggling. 
III, IV, VI: EOMI.  Has clear torsional nystagmus worse with
right gaze, but also present on up and downgaze.  This does not
extinguish.  Questionably visualized with left gaze.  When asked
to focus on a point, torsional nystagmus is visualized in 
primary
gaze.  No skew. 
V: Facial sensation intact to light touch in all distributions 
VII: Mild Right eye ptosis, but eye closure strong.  Symmetric
smile, symmetric forehead wrinkle.
VIII: Hearing decreased in left ear.
IX, X: Palate elevates symmetrically.
XI: full strength in trapezii and SCM bilaterally.
XII: Tongue protrudes in midline with full ROM right and left 
 
-Motor: Normal bulk.  Mildly inc tone in LLE. No pronator drift
bilaterally. No tremor noted. 
 Delt Bic Tri WrE FFl FE IO  IP Quad Ham TA ___
L  ___   ___  5   4+  5   4+  /    4     3   3
R  ___   ___  ___   5   5    5     5   5
 
-DTRs:
    Bi  Tri  ___  Pat  Ach
L   2    2+    2+    3    1
R   2    2     2     3    0
- Toes were upgoing bilaterally L>R.

-Sensory: No deficits to light touch, pinprick throughout. 
Mildly decreased proprioception at her b/l great toes. No
extinction to DSS. 

-Coordination: No dysmetria on FNF or HKS bilaterally. Rapid
alternating movements are slightly clumsy symmetrically with
finger tapping.  There is greater than expected cerebellar
rebound bilaterally.

-Gait: Unsteady.  When sitting up in bed, no evidence of trunal
ataxia.  When standing, wide based, looks nervous.  Sways when
not braced against something.  Assessment of ___ in place
limited due to lack of AFO, chronic left foot drop.

======================================================

DISCHARGE PHYSICAL EXAM:
MS: Alert, interactive, speech fluent, following commands. 
CN: No rotary nystagmus on primary gaze. Improve nystagmus on 
right gaze. Weakness of left eye closing on attempted eye 
opening. Left lower facial weakness. Decreased hearing on the 
left side. 
Motor: full
Sensation: Intact to light touch
Coordination: FNF intact. 
Gait: Narrow standing, good stride with walker. 
 
Pertinent Results:
ADMISSION LABS:
___ 08:21PM BLOOD WBC-8.2 RBC-4.65 Hgb-13.9 Hct-42.2 MCV-91 
MCH-29.9 MCHC-32.9 RDW-12.4 RDWSD-41.0 Plt ___
___ 08:21PM BLOOD Neuts-63.8 ___ Monos-9.5 Eos-1.2 
Baso-0.7 Im ___ AbsNeut-5.22 AbsLymp-2.02 AbsMono-0.78 
AbsEos-0.10 AbsBaso-0.06
___ 08:21PM BLOOD Glucose-117* UreaN-20 Creat-0.8 Na-130* 
K-9.1* Cl-99 HCO3-21* AnGap-19
___ 01:52AM BLOOD ALT-17 AST-17 LD(LDH)-140 AlkPhos-63 
TotBili-0.6
___ 04:46AM BLOOD Albumin-4.0 Calcium-9.3 Phos-3.5 Mg-2.0

IMAGING:
CXR ___:
In comparison with the earlier study of this date, this and 
placement of aright subclavian PICC line that extends to the mid 
portion of the SVC.  No evidence of acute cardiopulmonary 
disease.

MRI w/ and w/o contrast ___:
1. There is new enhancement of the left geniculate ganglion and
the intracanalicular portions left facial nerves suggesting a
viral illness
2. Left superior vestibular nerve enhancement is not excluded
3. Allowing for motion artifact on the current study, there is 
no
definite change in the cerebral white matter plaques compared to
___.
4. No brainstem or cerebellar plaque is seen. No new or 
enhancing plaque is present

PERTINENT RESULTS:
ACE SERUM  NEGATIVE
LYME SERUM NEGATIVE
HSV PCR CSF NEGATIVE
VZV PCR CSF POSITIVE

CSF:
Tube 1: WBC 200 RBC 855 POLY 0 LYMPH ___ MONO 33
Tube 4: WBC 283 RBC 8   POLY 3 LYMPH ___ MONO 30
PROT 83
GLU 60

MICRO:
___ 10:30 am CSF;SPINAL FLUID      CSF TUBE #3. 

                            **FINAL REPORT ___

   GRAM STAIN (Final ___: 
      1+    (<1 per 1000X FIELD):   POLYMORPHONUCLEAR 
LEUKOCYTES. 
      NO MICROORGANISMS SEEN. 
      This is a concentrated smear made by cytospin method, 
please refer to
      hematology for a quantitative white blood cell count.. 

   FLUID CULTURE (Final ___:    NO GROWTH. 

DISCHARGE LABS:
___ 09:05AM BLOOD WBC-7.3 RBC-4.28 Hgb-12.8 Hct-38.9 MCV-91 
MCH-29.9 MCHC-32.9 RDW-12.7 RDWSD-41.4 Plt ___
___ 09:05AM BLOOD Glucose-144* UreaN-13 Creat-0.8 Na-140 
K-3.3 Cl-105 HCO3-22 AnGap-16
___ 09:05AM BLOOD Calcium-9.8 Phos-3.1 Mg-1.9
 
Brief Hospital Course:
Ms. ___ is a ___ right handed woman with a past medical 
history of multiple sclerosis on copaxone and OSA who presented 
with a 10 day history of dizziness, with MRI findings of 
multiple cranial nerve enhancement diagnosed with varicella 
zoster oticus or ___ Syndrome.

Her exam was notable for left facial nerve palsy, left ear pain, 
herpetic vesicles on left tympanic membrane and left side of 
palate, decreased hearing on left, torsional nystagmus and 
unstable gait. She underwent lumbar puncture which showed a  
lymphocytic pleocytosis to 283 and elevated protein to 83, and 
MRI findings of left facial nerve and possible vestibular nerve 
enhancement concerning for viral illness. Given this 
constellation of findings, the etiology of her presentation was 
thought most likely secondary to Ramsay Hunt Syndrome. CSF VZV 
confirmed this diagnosis. She was started on empiric treatment 
with IV Acyclovir. Infectious disease was consulted who 
recommended completion of a 10 day IV course with transition to 
PO Valacyclovir to complete a   ___ PICC line was 
placed to complete the IV therapy as an outpatient. She was also 
started on Prednisone 60mg for inflammation to complete a rapid 
taper as an outpatient. She will follow-up with neurology and ID 
as an outpatient. 

Transitional issues:
-IV Acyclovir via PICC until ___
-PO Valacyclovir until ___
-PICC removal at ___ ID appointment 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Lorazepam 0.5 mg PO Q8-12H PRN vertigo 
2. Meclizine 12.5-25 mg PO Q8H:PRN vertigo 
3. Amoxicillin-Clavulanic Acid ___ mg PO Q12H 
4. Fluticasone Propionate NASAL ___ SPRY NU DAILY 
5. Copaxone (glatiramer) 40 mg/mL subcutaneous 3X/WEEK ___ 

 
Discharge Medications:
1. Acyclovir 700 mg IV Q8H 
Please provide NS Bolus 250cc Pre and post acyclovir dosing  
RX *acyclovir sodium 500 mg 1.4 vials IV every eight (8) hours 
Disp #*98 Vial Refills:*0
2. Copaxone (glatiramer) 40 mg/mL subcutaneous 3X/WEEK MWF 
3. Famotidine 20 mg PO DAILY 
RX *famotidine 20 mg 1 tablet(s) by mouth daily Disp #*6 Tablet 
Refills:*0
4. PredniSONE 60 mg PO DAILY 
Please see discharge worksheet.  
RX *prednisone 10 mg 6 tablet(s) by mouth daily Disp #*21 Tablet 
Refills:*0
5. TraZODone 25 mg PO QHS:PRN insomnia 
RX *trazodone 50 mg 0.5 (One half) tablet(s) by mouth at night 
Disp #*30 Tablet Refills:*0
6. Fluticasone Propionate NASAL ___ SPRY NU DAILY 
7. ValACYclovir 1000 mg PO Q8H 
RX *valacyclovir 1,000 mg 1 tablet(s) by mouth every eight (8) 
hours Disp #*36 Tablet Refills:*0

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Primary diagnosis:
Ramsay-Hunt syndrome
Varicella-zoster encephalitis

Secondary diagnosis:
Multiple sclerosis

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

 
Discharge Instructions:
Dear Ms. ___, 

You were admitted to ___ with unsteadiness and an abnormal MRI 
and found to have evidence of varicella zoster virus (shingles) 
of the nerves which control your face, hearing and balance in 
your brain. 

You were treated with IV Acyclovir and Prednisone and had 
improvement in your symptoms. You will continue on Acyclovir 
through your PICC line until ___. A visiting nurse ___ help 
teach you how to administer this medication and then you will be 
able to complete it on your own for the duration of therapy. On 
___, you will start valacyclovir and continue this until ___. 
You will also continue on Prednisone taper as follows:
___: Prednisone 60mg 
___: Prednisone 50mg 
___: Prednisone 40mg 
___: Prednisone 30mg 
___: Prednisone 20mg 
___: Prednisone 10mg 
___: Off

Please follow-up with infectious disease appointment scheduled 
below. Your PICC line will be removed at that appointment. 

Your neurologist's office will call you to schedule an 
appointment for the next ___ weeks. If you do not hear from 
them, please call them at ___. 

It was a pleasure taking care of you, 
Your ___ Neurologists
 
Followup Instructions:
___